US07495103B2
To a stirred solution of (tert-butoxycarbonyl-methyl-amino)-acetic acid (37 g, 0.2 mol) and Et3N (60.6 g, 0.6 mol) in CH2Cl2 (300 mL) was added isobutyl chloroformate (27.3 g, 0.2 mmol) dropwise at −20° C. under argon. After stirring for 0.5 h, methylamino-acetic acid ethyl ester hydrochloride (30.5 g, 129 mmol) was added dropwise at −20° C. The mixture was allowed to warm to room temperature (c.a. 1 h) and quenched with water (500 mL). The organic layer was separated, washed with 10% citric acid solution, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography (petroleum ether/EtOAc 1:1) to give {[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetic acid ethyl ester (12.5 g, 22%).

reactant | (tert-butoxycarbonyl-methyl-amino)-acetic acid | 0.2 mol, 37 g | C(C)(C)(C)OC(=O)N(C)CC(=O)O | C8H15NO4
reactant | Et3N | 0.6 mol, 60.6 g | CCN(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.2 mmol, 27.3 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | methylamino-acetic acid ethyl ester hydrochloride | 129 mmol, 30.5 g | Cl.C(C)OC(CNC)=O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | {[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetic acid ethyl ester | 12.5 g, 22% | C(C)OC(CN(C)C(CN(C)C(=O)OC(C)(C)C)=O)=O | C13H24N2O5
